### PR TITLE
[Merged by Bors] - feat: Add Basis.of_isLocalizedModule

### PR DESCRIPTION
**Pull request by xroblot**
Let `Mₛ` be a `R`-module and let `M` be a submodule of `Mₛ` such that `Mₛ` is the localization at `S` of `M` where `S` is a submonoid of `R`. Assume that `Mₛ` is a `Rₛ`-module where `Rₛ` is a localization of `R` at `S`. Then, any `R`-basis of `M` is a `Rₛ`-basis of `Mₛ`.

This result is used to prove the results about `Basis.localizationLocalization`. For that, it is necessary to move some results between files and modify some imports. 

Co-authored-by: Junyan Xu <junyanxumath@gmail.com>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Module/LocalizedModule.lean [hunk 1]
```diff
@@ -1110,4 +1110,61 @@ theorem isBaseChange : IsBaseChange A f := by
 
 end IsLocalizedModule
 
+section Basis
+
+open Submodule
+
+variable (Rₛ : Type*) [CommRing Rₛ] [Algebra R Rₛ] [IsLocalization S Rₛ] (Mₛ : Type*)
+  [AddCommGroup Mₛ] [Module R Mₛ] {M : Submodule R Mₛ} [IsLocalizedModule S M.subtype]
```
Comment (alreadydone) [inline Mathlib/Algebra/Module/LocalizedModule.lean:1118]: Is there an obstruction generalizing `M.subtype` to an arbitrary linear map (which isn't necessarily injective)?

File: Mathlib/Algebra/Module/LocalizedModule.lean [hunk 2]
```diff
@@ -1110,4 +1110,61 @@ theorem isBaseChange : IsBaseChange A f := by
...
+  rw [← LinearMap.coe_restrictScalars R, ← LinearMap.map_span]
+  exact mem_map_of_mem (hv.symm ▸ mem_top)
+
+variable {ι : Type*} (b : Basis ι R M)
+
+/-- Let `Mₛ` be a `R`-module and let `M` be a submodule of `Mₛ` such that `Mₛ` is the localization
+at `S` of `M` where `S` is a submonoid of `R`. Assume that `Mₛ` is a `Rₛ`-module where `Rₛ` is a
+localization of `R` at `S`. Then, any `R`-basis of `M` is a `Rₛ`-basis of `Mₛ`. -/
+noncomputable def Basis.isLocalizedModule : Basis ι Rₛ Mₛ := by
+  exact Basis.mk
```
[the remark this answers is not in the document]
Comment (xroblot) [reply Mathlib/Algebra/Module/LocalizedModule.lean:1140]: Good point :)

File: Mathlib/Algebra/Module/LocalizedModule.lean [hunk 3]
```diff
@@ -1110,4 +1110,61 @@ theorem isBaseChange : IsBaseChange A f := by
...
+section Basis
+
+open Submodule
+
+variable (Rₛ : Type*) [CommRing Rₛ] [Algebra R Rₛ] [IsLocalization S Rₛ] (Mₛ : Type*)
+  [AddCommGroup Mₛ] [Module R Mₛ] {M : Submodule R Mₛ} [IsLocalizedModule S M.subtype]
+  [Module Rₛ Mₛ] [IsScalarTower R Rₛ Mₛ]
+
+theorem SpanEqTop.isLocalizedModule {v : Set M} (hv : span R v = ⊤) :
+    span Rₛ (M.subtype '' v) = ⊤ := by
```
[the remark this answers is not in the document]
Comment (xroblot) [reply Mathlib/Algebra/Module/LocalizedModule.lean:1122]: I just copied what was done there: [SpanEqTop.localization_localization](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Localization/Module.html#SpanEqTop.localization_localization) but I am not a big fan of the name, I agree.

File: Mathlib/Algebra/Module/LocalizedModule.lean (hunk 1 above)
Comment (xroblot) [reply Mathlib/Algebra/Module/LocalizedModule.lean:1118]: Yes, there is an obstruction: `LinearIndependent.map' ` in `Basis.isLocalizedModule` needs an injective map.

File: Mathlib/Algebra/Module/LocalizedModule.lean (hunk 3 above)
[the remark this answers is not in the document]
Comment (alreadydone) [reply Mathlib/Algebra/Module/LocalizedModule.lean:1122]: @Vierkantor you added that [in mathlib3](https://github.com/leanprover-community/mathlib/commit/b69c9a770ecf37eb21f7b8cf4fa00de3b62694ec#diff-73f8ec4033c2c85254b321f25ca5d5360339bee6450f3ff4ad8b68dab89b2b7bR77-R78). Do you agree we should rename it to `_of_span_eq_top`?

File: Mathlib/Algebra/Module/LocalizedModule.lean (hunk 1 above)
Comment (alreadydone) [reply Mathlib/Algebra/Module/LocalizedModule.lean:1118]: I think we should prove LinearIndependent assuming LinearIndependent only, and it shouldn't be too hard to adapt the proof of [LinearIndependent.localization](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Localization/Module.html#LinearIndependent.localization) which should work in the non-injective case.

Comment (xroblot) [reply Mathlib/Algebra/Module/LocalizedModule.lean:1118]: Indeed, that may work. I'll be a bit busy in the next few days but I'll see what I can prove after that.

File: Mathlib/Algebra/Module/LocalizedModule.lean (hunk 3 above)
[the remark this answers is not in the document]
Comment (Vierkantor) [reply Mathlib/Algebra/Module/LocalizedModule.lean:1122]: IIRC, the motivation was for symmetry with `LinearIndependent`. I'm happy with either version, so please go ahead and rename!

[the remark this answers is not in the document]
Comment (alreadydone) [reply Mathlib/Algebra/Module/LocalizedModule.lean:1122]: Thanks! LinearIndependent makes dot notation available, but SpanEqTop dot notation doesn't work unless we actually make a def SpanEqTop. Since it's unclear whether we want to do that, and given that [SpanEqTop.localization_localization](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Localization/Module.html#SpanEqTop.localization_localization) is currently the only declaration in the namespace, I think we should rename it.

[the remark this answers is not in the document]
Comment (xroblot) [reply Mathlib/Algebra/Module/LocalizedModule.lean]: But should not the names be more like `span_eq_top_of_` than the other way around?

File: Mathlib/RingTheory/Localization/Module.lean [hunk 4]
```diff
@@ -51,11 +58,81 @@ theorem LinearIndependent.localization {ι : Type*} {b : ι → M} (hli : Linear
...
+  obtain ⟨⟨m, s⟩, h⟩ := IsLocalizedModule.surj S f x
+  rw [show x = IsLocalization.mk' Rₛ 1 s • f m by
+    rwa [← IsLocalizedModule.smul_inj f s, Submonoid.smul_def, Submonoid.smul_def,
+      ← smul_assoc, IsLocalization.smul_mk' (s:R) 1 s, IsLocalization.mk'_mul_cancel_left, map_one,
+      one_smul]]
+  refine smul_mem _ _  (span_subset_span R Rₛ _ ?_)
+  rw [← LinearMap.coe_restrictScalars R, ← LinearMap.map_span]
+  exact mem_map_of_mem (hv.symm ▸ mem_top)
+
+theorem LinearIndependent.isLocalizedModule {ι : Type*} {v : ι → M}
```
Comment (alreadydone) [inline Mathlib/RingTheory/Localization/Module.lean:77]: I'd call this `LinearIndependent.of_isLocalizedModule`

File: Mathlib/RingTheory/Localization/Module.lean [hunk 5]
```diff
@@ -51,11 +58,81 @@ theorem LinearIndependent.localization {ι : Type*} {b : ι → M} (hli : Linear
     refine' Finset.sum_congr rfl fun i hi => _
     rw [← IsScalarTower.algebraMap_smul Rₛ, hg' i hi, smul_assoc]
   refine' (IsLocalization.map_units Rₛ a).mul_right_eq_zero.mp _
-  rw [← Algebra.smul_def, ← map_zero (algebraMap R Rₛ), ← hli, hg' i hi]
+  rw [← Algebra.smul_def, ← _root_.map_zero (algebraMap R Rₛ), ← hli, hg' i hi]
 #align linear_independent.localization LinearIndependent.localization
 
+theorem isLocalizedModule_of_span_eq_top {v : Set M} (hv : span R v = ⊤) :
+    span Rₛ (f '' v) = ⊤ := by
```
Comment (alreadydone) [inline Mathlib/RingTheory/Localization/Module.lean:65]: I'd call this `span_eq_top_of_isLocalizedModule` or `IsLocalizedModule.span_eq_top`.

File: Mathlib/RingTheory/Localization/Module.lean [hunk 6]
```diff
@@ -51,11 +58,81 @@ theorem LinearIndependent.localization {ι : Type*} {b : ι → M} (hli : Linear
...
+section Basis
+
+open Submodule
+
+variable {M Mₛ : Type*} [AddCommGroup M] [AddCommGroup Mₛ] [Module R M] [Module R Mₛ] [Module R Mₛ]
+  [Module Rₛ Mₛ] (f : M →ₗ[R] Mₛ) [IsLocalizedModule S f] [IsScalarTower R Rₛ Mₛ]
+  {ι : Type*} (b : Basis ι R M)
+
+/-- If `M` has an `R`-basis, then localizing `M` at `S` has a basis over `R` localized at `S`. -/
+noncomputable def Basis.isLocalizedModule : Basis ι Rₛ Mₛ :=
```
Comment (alreadydone) [inline Mathlib/RingTheory/Localization/Module.lean:105]: I'd call this `Basis.ofIsLocalizedModule`

File: Mathlib/RingTheory/Localization/Module.lean [hunk 7]
```diff
@@ -70,83 +147,66 @@ variable [hA : IsLocalization (Algebra.algebraMapSubmonoid A S) Aₛ]
 
 open Submodule
 
+theorem IsLocalizedModule_of_isScalarTower :
```
Comment (alreadydone) [inline Mathlib/RingTheory/Localization/Module.lean:150]:
```suggestion
theorem isLocalizedModule_of_isScalarTower :
```

File: Mathlib/RingTheory/Localization/Module.lean [hunk 8]
```diff
@@ -70,83 +147,66 @@ variable [hA : IsLocalization (Algebra.algebraMapSubmonoid A S) Aₛ]
...
-  rw [← (IsLocalization.map_units Rₛ a).mul_right_eq_zero, ← Algebra.smul_def, ← hg' i hi]
-  exact (IsLocalization.map_eq_zero_iff S _ _).2 ⟨⟨r, hrS⟩, hv⟩
+    (hv : LinearIndependent R v) : LinearIndependent Rₛ ((algebraMap A Aₛ) ∘ v) := by
+  have : IsLocalizedModule S (IsScalarTower.toAlgHom R A Aₛ).toLinearMap :=
+    IsLocalizedModule_of_isScalarTower S Aₛ
+  exact hv.isLocalizedModule Rₛ S (IsScalarTower.toAlgHom R A Aₛ).toLinearMap
 #align linear_independent.localization_localization LinearIndependent.localization_localization
 
 theorem SpanEqTop.localization_localization {v : Set A} (hv : span R v = ⊤) :
     span Rₛ (algebraMap A Aₛ '' v) = ⊤ := by
```
Comment (alreadydone) [inline Mathlib/RingTheory/Localization/Module.lean:174]: Since `span = ⊤` appears as both hypothesis and conclusion, I'd call this `span_eq_top_localization_localization`

File: Mathlib/RingTheory/Localization/Module.lean [hunk 9]
```diff
@@ -198,4 +258,27 @@ def LinearMap.extendScalarsOfIsLocalization (f : M →ₗ[R] N) : M →ₗ[A] N
 @[simp] lemma LinearMap.extendScalarsOfIsLocalization_apply (f : M →ₗ[A] N) :
     f.extendScalarsOfIsLocalization S A = f := rfl
 
-end
+variable {M' : Type*} [AddCommMonoid M'] [Module R M'] [Module A M']
+  [IsScalarTower R A M'] (f : M →ₗ[R] M')  [IsLocalizedModule S f]
```
Comment (alreadydone) [inline Mathlib/RingTheory/Localization/Module.lean:262]:
```suggestion
  [IsScalarTower R A M'] (f : M →ₗ[R] M') [IsLocalizedModule S f]
```

File: Mathlib/RingTheory/Localization/Module.lean [hunk 10]
```diff
@@ -198,4 +258,27 @@ def LinearMap.extendScalarsOfIsLocalization (f : M →ₗ[R] N) : M →ₗ[A] N
...
+
+/-- If `(f : M →ₗ[R] M')` is a localization of modules, then the map
+`(localization S) × M → N, (s, m) ↦ s • f m` is the tensor product (insomuch as it is the universal
+bilinear map).
+In particular, there is an isomorphism between `LocalizedModule S M` and `(Localization S) ⊗[R] M`
+given by `m/s ↦ (1/s) ⊗ₜ m`.
+-/
+theorem IsLocalizedModule.isBaseChange : IsBaseChange A f := by
```
Comment (alreadydone) [inline Mathlib/RingTheory/Localization/Module.lean:270]: Side comment: it should be easy to show that for a submodule N of M, the restriction of `f` to `N → span A (N.map f)` also satisfies `IsLocalizedModule A`. Combined with this theorem it should be easy to show `A` is flat over `R`.

I think it's also true that `span A (N.map f)` is an OrderIso between R-submodules of M and A-submodules of M', with inverse given by `N'.comap f`.

Comment (xroblot) [reply Mathlib/RingTheory/Localization/Module.lean:270]: Thanks for the review!

> Side comment: it should be easy to show that for a submodule N of M, the restriction of f to N → span A (N.map f) also satisfies IsLocalizedModule A. Combined with this theorem it should be easy to show A is flat over R.

> I think it's also true that span A (N.map f) is an OrderIso between R-submodules of M and A-submodules of M', with inverse given by N'.comap f.

But that would be for another PR, right? 😅

Comment (alreadydone) [reply Mathlib/RingTheory/Localization/Module.lean:271]: Sure, that's why it's a side comment ...

File: Mathlib/RingTheory/Localization/Module.lean [hunk 11]
```diff
@@ -31,15 +33,21 @@ open nonZeroDivisors
...
 section AddCommMonoid
 
-variable {M : Type*} [AddCommMonoid M] [Module R M] [Module Rₛ M] [IsScalarTower R Rₛ M]
+open Submodule
+
+variable {M M' : Type*} [AddCommMonoid M] [Module R M] [Module Rₛ M] [IsScalarTower R Rₛ M]
+  [AddCommMonoid M'] [Module R M'] [Module Rₛ M'] [IsScalarTower R Rₛ M'] (f : M →ₗ[R] M')
+  [IsLocalizedModule S f]
 
 theorem LinearIndependent.localization {ι : Type*} {b : ι → M} (hli : LinearIndependent R b) :
```
Comment (erdOne) [inline Mathlib/RingTheory/Localization/Module.lean:52]: Can this be obtained using `isLocalizedModule_of_isScalarTower` below?

File: Mathlib/RingTheory/Localization/Module.lean [hunk 12]
```diff
@@ -70,83 +148,66 @@ variable [hA : IsLocalization (Algebra.algebraMapSubmonoid A S) Aₛ]
 
 open Submodule
 
+theorem isLocalizedModule_of_isScalarTower :
+    IsLocalizedModule S (IsScalarTower.toAlgHom R A Aₛ).toLinearMap where
```
Comment (erdOne) [inline Mathlib/RingTheory/Localization/Module.lean:152]: We should upgrade this to an iff and this should live in `Mathlib/Algebra/Module/LocalizedModule.lean`.

File: Mathlib/RingTheory/Localization/Module.lean [hunk 13]
```diff
@@ -198,4 +259,27 @@ def LinearMap.extendScalarsOfIsLocalization (f : M →ₗ[R] N) : M →ₗ[A] N
...
+variable {M' : Type*} [AddCommMonoid M'] [Module R M'] [Module A M']
+  [IsScalarTower R A M'] (f : M →ₗ[R] M') [IsLocalizedModule S f]
+
+/-- If `(f : M →ₗ[R] M')` is a localization of modules, then the map
+`(localization S) × M → N, (s, m) ↦ s • f m` is the tensor product (insomuch as it is the universal
+bilinear map).
+In particular, there is an isomorphism between `LocalizedModule S M` and `(Localization S) ⊗[R] M`
+given by `m/s ↦ (1/s) ⊗ₜ m`.
+-/
+theorem IsLocalizedModule.isBaseChange : IsBaseChange A f := by
```
Comment (erdOne) [inline Mathlib/RingTheory/Localization/Module.lean:271]: I think this should go somewhere else. Maybe `Mathlib/RingTheory/Localization/BaseChange.lean`?

File: Mathlib/RingTheory/Localization/Module.lean (hunk 11 above)
Comment (alreadydone) [reply Mathlib/RingTheory/Localization/Module.lean:52]: I don't see how? That one is about localization of an algebra, and doesn't apply to general modules.

Comment (alreadydone) [reply Mathlib/RingTheory/Localization/Module.lean:52]: I guess you mean `LinearIndependent.of_isLocalizedModule` instead? It's possible, by introducing the following missing lemma (can be inserted just after `IsLocalizedModule.eq_iff_exists` in the other file):
```
variable (M) in
lemma isLocalizedModule_id (R') [CommRing R'] [Algebra R R'] [IsLocalization S R'] [Module R' M]
    [IsScalarTower R R' M] : IsLocalizedModule S (.id : M →ₗ[R] M) where
  map_units s := (Module.End_isUnit_iff _).mpr <| by
    convert_to Function.Bijective (algebraMap R' (Module.End R' M) (algebraMap R R' s))
    · ext; simp
    exact (Module.End_isUnit_iff _).mp ((IsLocalization.map_units R' s).map _)
  surj' m := ⟨(m, 1), one_smul _ _⟩
  exists_of_eq h := ⟨1, congr_arg _ h⟩
```
then this becomes
```
theorem LinearIndependent.localization {ι : Type*} {b : ι → M} (hli : LinearIndependent R b) :
    LinearIndependent Rₛ b :=
  have := isLocalizedModule_id S M Rₛ
  hli.of_isLocalizedModule Rₛ S .id
```

File: Mathlib/RingTheory/Localization/Module.lean (hunk 12 above)
Comment (alreadydone) [reply Mathlib/RingTheory/Localization/Module.lean:152]: I proved
```
lemma isLocalizedModule_iff_isLocalization (R') [CommRing R'] [Algebra R R'] :
    IsLocalizedModule S (Algebra.ofId R R').toLinearMap ↔ IsLocalization S R' := sorry
```
in [this branch](https://github.com/leanprover-community/mathlib4/compare/xfr-basis_islocalizedmodule...jyxu/isLocalizedModule?expand=1), which seems also missing. Feel free to merge!

Comment (xroblot) [reply Mathlib/RingTheory/Localization/Module.lean:145]: Merged. Thanks!

File: Mathlib/RingTheory/Localization/Module.lean (hunk 13 above)
Comment (xroblot) [reply Mathlib/RingTheory/Localization/Module.lean]: As suggested, I moved this result to a new file. I kept the authors of the original file (cf. `LocalizedModule.lean`).

File: Mathlib/RingTheory/Localization/Module.lean (hunk 12 above)
Comment (alreadydone) [reply Mathlib/RingTheory/Localization/Module.lean:145]: Could you add `IsLocalization (Algebra.algebraMapSubmonoid A S) Aₛ ↔ IsLocalizedModule S (IsScalarTower.toAlgHom R A Aₛ).toLinearMap` which I think is @erdOne's suggestion? It's analogous to `isLocalizedModule_iff_isLocalization` and shouldn't be much more difficult to prove ... And we could even derive `isLocalizedModule_iff_isLocalization` from it, I think.

File: Mathlib/RingTheory/Localization/BaseChange.lean [hunk 14]
```diff
@@ -0,0 +1,46 @@
...
+  {M' : Type*} [AddCommMonoid M'] [Module R M'] [Module A M'] [IsScalarTower R A M']
+  (f : M →ₗ[R] M') [IsLocalizedModule S f]
+
+/-- If `(f : M →ₗ[R] M')` is a localization of modules, then the map
+`(localization S) × M → N, (s, m) ↦ s • f m` is the tensor product (insomuch as it is the universal
+bilinear map).
+In particular, there is an isomorphism between `LocalizedModule S M` and `(Localization S) ⊗[R] M`
+given by `m/s ↦ (1/s) ⊗ₜ m`.
+-/
+theorem IsLocalizedModule.isBaseChange : IsBaseChange A f := by
```
Comment (alreadydone) [inline Mathlib/RingTheory/Localization/BaseChange.lean:32]: I think this should be `iff` too ...

Comment (alreadydone) [reply Mathlib/RingTheory/Localization/BaseChange.lean:32]: The reverse direction can be derived from the current direction using [IsBaseChange.equiv](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/IsTensorProduct.html#IsBaseChange.equiv) and the missing lemma that `IsLocalizedModule` is preserved under composition with LinearEquiv.

Comment (xroblot) [reply Mathlib/RingTheory/Localization/BaseChange.lean]: Yes, that's clever. I pushed the new version. Thanks!

Comment (alreadydone) [reply Mathlib/RingTheory/Localization/BaseChange.lean]: I tried and found it hard to directly show the tensor product is the localized module. Then I recall there were [some Zulip discussions](https://leanprover.zulipchat.com/#narrow/stream/116395-maths/topic/localization.20map.20for.20modules/near/275122603) that this is likely not possible without an explicit construction of the localized module. Utilizing the construction `LocalizedModule` is exactly what we do in this clever proof.

File: Mathlib/Algebra/Algebra/Bilinear.lean [hunk 15]
```diff
@@ -198,6 +198,13 @@ theorem _root_.Algebra.coe_lmul_eq_mul : ⇑(Algebra.lmul R A) = mul R A :=
 theorem _root_.Algebra.lmul_injective : Function.Injective (Algebra.lmul R A) :=
   fun a₁ a₂ h ↦ by simpa using FunLike.congr_fun h 1
 
+theorem _root_.Algebra.lmul_isUnit_iff {A : Type*} [CommSemiring A] [Algebra R A] (x : A) :
+    IsUnit (Algebra.lmul R A x) ↔ IsUnit x := by
+  refine ⟨fun h ↦ ?_, fun h ↦ h.map (Algebra.lmul R A)⟩
+  obtain ⟨x, hx⟩ := ((Module.End_isUnit_iff _).mp h).2 1
+  rw [Algebra.coe_lmul_eq_mul, LinearMap.mul_apply'] at hx
+  exact isUnit_of_mul_eq_one _ _ hx
```
Comment (alreadydone) [inline Mathlib/Algebra/Algebra/Bilinear.lean:206]: This is true for noncommutative A as well; if `lmul` is surjective there exists y such that xy=1, and if it's injective then xyx=1x=x=x1 implies yx=1 as well. We could add `IsUnit x ↔ Bijective (x * ·)` next to the def of IsUnit since it holds for any monoid.

File: Mathlib/Algebra/Module/LocalizedModule.lean [hunk 16]
```diff
@@ -577,6 +577,66 @@ lemma IsLocalizedModule.eq_iff_exists [IsLocalizedModule S f] {x₁ x₂} :
...
+lemma isLocalizedModule_id (R') [CommRing R'] [Algebra R R'] [IsLocalization S R'] [Module R' M]
+    [IsScalarTower R R' M] : IsLocalizedModule S (.id : M →ₗ[R] M) where
+  map_units s := (Module.End_isUnit_iff _).mpr <| by
+    convert_to Function.Bijective (algebraMap R' (Module.End R' M) (algebraMap R R' s))
+    · ext; simp
+    exact (Module.End_isUnit_iff _).mp ((IsLocalization.map_units R' s).map _)
+  surj' m := ⟨(m, 1), one_smul _ _⟩
+  exists_of_eq h := ⟨1, congr_arg _ h⟩
+
+theorem isLocalizedModule_iff_isLocalization {A Aₛ} [CommRing A] [Algebra R A][CommRing Aₛ]
```
Comment (erdOne) [inline Mathlib/Algebra/Module/LocalizedModule.lean:607]: I wonder if we should make the inverse direction an instance.

File: Mathlib/Algebra/Algebra/Bilinear.lean (hunk 15 above)
Comment (xroblot) [reply Mathlib/Algebra/Algebra/Bilinear.lean]: I added 
```lean
@[to_additive]
theorem isUnit_iff_mulLeft_bijective [Monoid M] {a : M} :
    IsUnit a ↔ Function.Bijective (a * ·) :=
```
and also a `mulRight` version and used that to prove `Algebra.lmul_isUnit_iff`. As you suggested, I added those lemmas in `Algebra.Group.Units` where `IsUnit` is defined even though one direction is proved in `Algebra.Group.Units.Equiv`: [Units.mulLeft_bijective](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Group/Units/Equiv.html#Units.mulLeft_bijective). I thought that since the proof was very short and it made more sense for the result to be next to the definition of `IsUnit` that was the better choice.

File: Mathlib/Algebra/Module/LocalizedModule.lean (hunk 16 above)
Comment (xroblot) [reply Mathlib/Algebra/Module/LocalizedModule.lean:607]: I can try and see what happens but somebody with a better understanding of instances should advise about the pros and cons of this change.

Comment (riccardobrasca) [reply Mathlib/Algebra/Module/LocalizedModule.lean:607]: You can just try and bench it.

**Comment by xroblot** [comment]
!bench

File: Mathlib/Algebra/Module/LocalizedModule.lean (hunk 16 above)
Comment (xroblot) [reply Mathlib/Algebra/Module/LocalizedModule.lean:608]: So it looks fine: 
>  There were [no significant changes](http://speed.lean-fro.org/mathlib4/compare/32a979f1-1135-41e1-b764-f51014328bed/to/0cb17a0c-759e-4a34-8749-86bd7a0f459d) against commit https://github.com/leanprover-community/mathlib4/commit/95f91f8e66f14c0eecde8da6dbfeff39d44cbd81.

**Comment by riccardobrasca** [comment]
Can you please fix the conflict?

File: Mathlib/RingTheory/Localization/Module.lean [hunk 17]
```diff
@@ -76,82 +148,35 @@ variable [hA : IsLocalization (Algebra.algebraMapSubmonoid A S) Aₛ]
...
+#align span_eq_top.localization_localization span_eq_top_localization_localization
 
 /-- If `A` has an `R`-basis, then localizing `A` at `S` has a basis over `R` localized at `S`.
 
 A suitable instance for `[Algebra A Aₛ]` is `localizationAlgebra`.
 -/
 noncomputable def Basis.localizationLocalization {ι : Type*} (b : Basis ι R A) : Basis ι Rₛ Aₛ :=
-  Basis.mk (b.linearIndependent.localization_localization _ S _)
-    (by rw [Set.range_comp, SpanEqTop.localization_localization Rₛ S Aₛ b.span_eq])
-#align basis.localization_localization Basis.localizationLocalization
```
Comment (erdOne) [inline Mathlib/RingTheory/Localization/Module.lean:120]: It seems that you have removed some align statements. Is this intentional?

File: Mathlib/Algebra/Module/LocalizedModule.lean [hunk 18]
```diff
@@ -581,6 +581,72 @@ lemma IsLocalizedModule.eq_iff_exists [IsLocalizedModule S f] {x₁ x₂} :
     apply_fun f at h
     simp_rw [f.map_smul_of_tower, Submonoid.smul_def, ← Module.algebraMap_end_apply R R] at h
     exact ((Module.End_isUnit_iff _).mp <| map_units f c).1 h
+
+theorem IsLocalizedModule.of_linearEquiv (e : M' ≃ₗ[R] M'') [hf : IsLocalizedModule S f] :
```
Comment (erdOne) [inline Mathlib/Algebra/Module/LocalizedModule.lean:585]: IMO this should be proved using something like
```lean
instance IsLocalizedModule.sup {T : Submonoid R} (g : M' →ₗ[R] M'') [hf : IsLocalizedModule S f]
  [hg : IsLocalizedModule T g] :
    IsLocalizedModule (S ⊔ T) (g ∘ₗ f : M →ₗ[R] M'') where
  map_units := by
    suffices : S ⊔ T ≤ (IsUnit.submonoid _).comap (algebraMap R (Module.End R M''))
    · exact fun x ↦ this x.prop
    apply sup_le
    · intros r hr
      refine (Module.End_isUnit_iff _).mpr ⟨?_, ?_⟩
      · intro x y e
        obtain ⟨⟨x', s⟩, hs⟩ := IsLocalizedModule.surj T g x
        obtain ⟨⟨y', t⟩, ht⟩ := IsLocalizedModule.surj T g y
        have hs' := congr_arg (t • r • ·) hs
        have ht' := congr_arg (s • r • ·) ht
        simp only [Module.algebraMap_end_apply, Submonoid.smul_def, smul_comm r] at e hs' ht' hs ht
        rw [e, smul_comm, ht', ← map_smul, ← map_smul, ← map_smul, ← map_smul] at hs'
        have ⟨c, hc⟩ := IsLocalizedModule.exists_of_eq (S := T) hs'
        simp only [← smul_comm r] at hc
        replace hc := ((Module.End_isUnit_iff _).mp (IsLocalizedModule.map_units f ⟨r, hr⟩)).1 hc
        apply_fun g at hc
        simp only [Submonoid.coe_subtype, map_smul, ← hs, ← ht] at hc
        simp only [← Submonoid.smul_def, mul_comm s, ← mul_smul] at hc
        exact ((Module.End_isUnit_iff _).mp (IsLocalizedModule.map_units g (c * (t * s)))).1 hc
      · intros x
        obtain ⟨⟨x', s⟩, hs⟩ := IsLocalizedModule.surj T g x
        obtain ⟨a, rfl⟩ := ((Module.End_isUnit_iff _).mp (map_units f ⟨r, hr⟩)).2 x'
        obtain ⟨b, hb⟩ := ((Module.End_isUnit_iff _).mp (map_units g s)).2 (g a)
        simp only [Module.algebraMap_end_apply, map_smul, ← hb, smul_comm r] at hs
        exact ⟨b, ((Module.End_isUnit_iff _).mp (map_units g s)).1 hs.symm⟩
    · intros r hr
      exact IsLocalizedModule.map_units g ⟨r, hr⟩
  surj' x := by
    obtain ⟨⟨x', t⟩, ht : _ = g x'⟩ := IsLocalizedModule.surj T g x
    obtain ⟨⟨x'', s⟩, hs : _ = f x''⟩ := IsLocalizedModule.surj S f x'
    exact ⟨⟨x'', ⟨s.1 * t.1, Submonoid.mem_sup.mpr ⟨_, s.prop, _, t.prop, rfl⟩⟩⟩,
      by simp [← hs, ← ht, mul_smul, Submonoid.smul_def]⟩
  exists_of_eq h := by
    obtain ⟨a, ha⟩ := exists_of_eq (S := T) (f := g) h
    simp only [Submonoid.smul_def, ← map_smul] at ha
    obtain ⟨b, hb⟩ := exists_of_eq (S := S) ha
    simp only [Submonoid.smul_def, ← mul_smul] at hb
    exact ⟨⟨_, Submonoid.mem_sup.mpr ⟨_, b.prop, _, a.prop, rfl⟩⟩, hb⟩

theorem IsLocalizedModule.linearEquiv (e : M ≃ₗ[R] M')
    (hS : ∀ x : S, IsUnit (algebraMap R (Module.End R M') x)) :
      IsLocalizedModule S (e : M →ₗ[R] M') where
  map_units := hS
  surj' x := ⟨⟨e.symm x, 1⟩, by simp⟩
  exists_of_eq h := ⟨1, by simpa using h⟩
```

File: Mathlib/Algebra/Group/Units.lean [hunk 19]
```diff
@@ -700,6 +700,32 @@ lemma IsUnit.exists_left_inv [Monoid M] {a : M} (h : IsUnit a) : ∃ b, b * a =
...
+    IsUnit a ↔ Function.Bijective (· * a) := by
+  refine ⟨fun h ↦ ⟨fun _ _ h_eq ↦ ?_, fun y ↦ ?_⟩, fun h ↦ ?_⟩
+  · obtain ⟨b, hb⟩ := h.exists_right_inv
+    replace h_eq := congr_arg (· * b) h_eq
+    simpa [mul_assoc, hb] using h_eq
+  · obtain ⟨b, hb⟩ := h.exists_left_inv
+    exact ⟨y * b, by simp [mul_assoc, hb]⟩
+  · refine ⟨⟨a, (h.2 1).choose, ?_, (h.2 1).choose_spec⟩, rfl⟩
+    apply h.1
+    simpa [mul_assoc] using congr_arg (a * ·) (h.2 1).choose_spec
```
Comment (alreadydone) [inline Mathlib/Algebra/Group/Units.lean:727]: Golfed version that fits after `mul_left_injective` in the same file:
```
@[to_additive]
theorem isUnit_iff_mulLeft_bijective {a : M} :
    IsUnit a ↔ Function.Bijective (a * ·) :=
  ⟨fun h ↦ ⟨h.mul_right_injective, fun y ↦ ⟨h.unit⁻¹ * y, by simp [← mul_assoc]⟩⟩, fun h ↦ 
    ⟨⟨a, _, (h.2 1).choose_spec, h.1
      (by simpa [mul_assoc] using congr_arg (· * a) (h.2 1).choose_spec)⟩, rfl⟩⟩
  
@[to_additive]
theorem isUnit_iff_mulRight_bijective {a : M} :
    IsUnit a ↔ Function.Bijective (· * a) :=
  ⟨fun h ↦ ⟨h.mul_left_injective, fun y ↦ ⟨y * h.unit⁻¹, by simp [mul_assoc]⟩⟩,
    fun h ↦ ⟨⟨a, _, h.1 (by simpa [mul_assoc] using congr_arg (a * ·) (h.2 1).choose_spec),
      (h.2 1).choose_spec⟩, rfl⟩⟩
```

File: Mathlib/Algebra/Module/LocalizedModule.lean (hunk 18 above)
Comment (alreadydone) [reply Mathlib/Algebra/Module/LocalizedModule.lean:585]: This is a nice result but note that `T` should be an explicit argument (`S` already is). You can save a few lines by starting the `map_units` proof with
```
    suffices S ⊔ T ≤ (IsUnit.submonoid _).comap (algebraMap R (Module.End R M'')) from (this ·.prop)
    refine sup_le (fun r hr ↦ ?_) fun r hr ↦ IsLocalizedModule.map_units g ⟨r, hr⟩
    refine (Module.End_isUnit_iff _).mpr ⟨fun x y e ↦ ?_, fun x ↦ ?_⟩
```
Moreover, all the `IsLocalizedModule.` namespace are unnecessary in the proof. And I think we should extract `(Module.End_isUnit_iff _).mp (map_units` to a lemma as it's used so often.

Note that your `IsLocalizedModule.linearEquiv` doesn't use injectivity of `e` and conflicts with a lemma with the same name later in the file. I suggest not adding this lemma and refactor the proof this way:
```
instance LinearEquiv.isLocalizedModule_bot (e : M ≃ₗ[R] M') : IsLocalizedModule ⊥ e.toLinearMap where
  map_units := by rintro ⟨_, rfl⟩; simp_rw [map_one, isUnit_one]
  surj' m := ⟨⟨e.symm m, 1⟩, (one_smul _ _).trans (e.right_inv _).symm⟩
  exists_of_eq h := ⟨1, by simp_rw [one_smul]; exact e.injective h⟩

theorem IsLocalizedModule.of_linearEquiv (e : M' ≃ₗ[R] M'') [hf : IsLocalizedModule S f] :
    IsLocalizedModule S (e ∘ₗ f : M →ₗ[R] M'') := by
  convert IsLocalizedModule.sup S f ⊥ e.toLinearMap; rw [sup_bot_eq]

theorem IsLocalizedModule.of_linearEquiv' (e : M'' ≃ₗ[R] M) [hf : IsLocalizedModule S f] :
    IsLocalizedModule S (f ∘ₗ e : M'' →ₗ[R] M') := by
  convert IsLocalizedModule.sup ⊥ e.toLinearMap S f; rw [bot_sup_eq]
```

Comment (erdOne) [reply Mathlib/Algebra/Module/LocalizedModule.lean:585]: That lemma is stronger than both `LinearEquiv.isLocalizedModule_bot` and `isLocalizedModule_id` though. The `simpa` in `exists_of_eq` probably uses injectivity. That can be called `LinearEquiv.isLocalizedModule`. 

It is possible to move this result down and use all the `IsLocalizedModule.mk'`, `IsLocaliedModule.smul_injective` etc to simplify the proof I think. I was just showing that the claim is true and it is not hard to prove it in lean.

File: Mathlib/RingTheory/Localization/Module.lean (hunk 17 above)
Comment (xroblot) [reply Mathlib/RingTheory/Localization/Module.lean:120]: No. it seems I made a mess there. Thanks for the report

File: Mathlib/Algebra/Module/LocalizedModule.lean (hunk 18 above)
Comment (xroblot) [reply Mathlib/Algebra/Module/LocalizedModule.lean:585]: It seems that there is still a lot of work to be done in this file but I get the feeling that this PR is already quite packed. Would it be a good idea to keep it as it is (modulo some small fixes) and then open a new PR to add the above improvements.

Comment (alreadydone) [reply Mathlib/Algebra/Module/LocalizedModule.lean:585]: Indeed, your lemma is stronger, but the advantage of `isLocalizedModule_bot` is it can be an instance. Since yours can't be, using LinearEquiv namespace does make it easier to use. We should probably also add a version that assumes `∀ x : S, IsUnit (algebraMap R (Module.End R M) x)` for symmetry.

**Comment by erdOne** [comment]
I think we can merge it now. New lemmas can come later.

**Review by alreadydone — APPROVED** [review]

**Comment by erdOne** [comment]
maintainer merge

File: Mathlib/Algebra/Module/LocalizedModule.lean [hunk 20]
```diff
@@ -581,6 +581,55 @@ lemma IsLocalizedModule.eq_iff_exists [IsLocalizedModule S f] {x₁ x₂} :
...
+variable (M) in
+lemma isLocalizedModule_id (R') [CommSemiring R'] [Algebra R R'] [IsLocalization S R'] [Module R' M]
+    [IsScalarTower R R' M] : IsLocalizedModule S (.id : M →ₗ[R] M) where
+  map_units s := by
+    rw [← (Algebra.lsmul R (A := R') R M).commutes]; exact (IsLocalization.map_units R' s).map _
+  surj' m := ⟨(m, 1), one_smul _ _⟩
+  exists_of_eq h := ⟨1, congr_arg _ h⟩
+
+variable {S} in
+theorem isLocalizedModule_iff_isLocalization {A Aₛ} [CommSemiring A] [Algebra R A][CommSemiring Aₛ]
```
Comment (jcommelin) [inline Mathlib/Algebra/Module/LocalizedModule.lean:610]:
```suggestion
theorem isLocalizedModule_iff_isLocalization {A Aₛ} [CommSemiring A] [Algebra R A] [CommSemiring Aₛ]
```

**Review by jcommelin — APPROVED** [review]
bors d+
